US08455500B2
<Step 1> Synthesis of (2R)-4-(4-bromo-3,5-dimethylphenoxy)butan-2-ol
To 4-bromo-3,5-dimethylphenol (5.4 g) in dehydrated N,N-dimethylformamide (60 mL), sodium hydride (1.1 g) was added under ice-cooling and the resultant reaction mixture was stirred for 30 minutes. To the reaction mixture, (R)-3-hydroxybutyl 4-methylbenzenesulfonate (5.0 g) was added and the resultant reaction mixture was stirred at room temperature for 45 minutes. To the reaction mixture, a saturated ammonium chloride aqueous solution was added, followed by extracting the reaction mixture with ethyl acetate. The organic phase was washed with a saturated saline and was dried over anhydrous sodium sulfate. From the organic phase, the solvent was distilled off under reduced pressure and the resultant residue was purified by silica gel column chromatography (eluate: n-hexane:ethyl acetate-95:5 to 80:20) to obtain the subject compound (4.2 g) as a colorless solid.

reactant | 4-bromo-3,5-dimethylphenol | 5.4 g | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | (R)-3-hydroxybutyl 4-methylbenzenesulfonate | 5.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCC[C@@H](C)O | C11H16O4S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | (2R)-4-(4-bromo-3,5-dimethylphenoxy)butan-2-ol | 4.2 g | BrC1=C(C=C(OCC[C@@H](C)O)C=C1C)C | C12H17BrO2
